US07163938B2
Alternatively, 5-chloro-2-[1-(1-methyl-hexahydroazepin-4-yl)piperidin-4-ylcarbonylamino]-N-(5-chloropyridin-2-yl)-benzamide is prepared by a NaCNBH3 reductive alkylation of 5-chloro-2-[1-(hexahydroazepin-4-yl)piperidin-4-ylcarbonylamino]-N-(5-chloropyridin-2-yl)benzamide with formaldehyde.

reactant | NaCNBH3 | [BH3-]C#N.[Na+]
reactant | 5-chloro-2-[1-(hexahydroazepin-4-yl)piperidin-4-ylcarbonylamino]-N-(5-chloropyridin-2-yl)benzamide | ClC=1C=CC(=C(C(=O)NC2=NC=C(C=C2)Cl)C1)NC(=O)C1CCN(CC1)C1CCNCCC1 | C24H29Cl2N5O2
reactant | formaldehyde | C=O | CH2O
product | 5-chloro-2-[1-(1-methyl-hexahydroazepin-4-yl)piperidin-4-ylcarbonylamino]-N-(5-chloropyridin-2-yl)-benzamide | ClC=1C=CC(=C(C(=O)NC2=NC=C(C=C2)Cl)C1)NC(=O)C1CCN(CC1)C1CCN(CCC1)C | C25H31Cl2N5O2
